US05134147
1-Allyloxy-4-fluorobenzene
This compound was prepared from 4-fluorophenol and allyl bromide according to the process described in Example 5, stage A. The solvent used is acetone and the reaction was carried out in the presence of sodium hydroxide.

reactant | 4-fluorophenol | FC1=CC=C(C=C1)O | C6H5FO
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | 1-Allyloxy-4-fluorobenzene | C(C=C)OC1=CC=C(C=C1)F | C9H9FO
